US04870074
A mixture of p-acetylaminosalicylic acid methyl ester (5.0 g), hexyl iodide (7.6 g), potassium carbonate (9.9 g), and dimethylformamide (20 ml) is stirred at 70° C. for 30 hours. The reaction mixture is poured into ice-water and extracted with diethyl ether. The organic layer is washed successively with aqueous sodium hydroxide solution and saturated aqueous sodium chloride solution, dried over magnesium sulfate, and evaporated. The residue is chromatographed on silica gel with chloroform-methanol (20:1) to give 4-acetylamino-2-hexyloxybenzoic acid methyl ester (4.9 g) as an oil.

reactant | p-acetylaminosalicylic acid methyl ester | 5.0 g | COC(C=1C(O)=CC(=CC1)NC(C)=O)=O | C10H11NO4
reactant | hexyl iodide | 7.6 g | C(CCCCC)I | C6H13I
reactant | potassium carbonate | 9.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-acetylamino-2-hexyloxybenzoic acid methyl ester | 4.9 g | COC(C1=C(C=C(C=C1)NC(C)=O)OCCCCCC)=O | C16H23NO4
